US04363874
5-[4-(7-β-Galactosylcoumarin-3-carboxamido)butyl]-5-phenylbarbituric Acid
The above-described synthesis of the β-galactosylcoumarin-phenobarbital conjugate (n=4) can be modified to yield label conjugates wherein n=2 through 6 by replacing the starting material ethyl 5-bromopentanoate with the appropriate ethyl ω-bromoalkanoate as follows:

reactant | β-galactosylcoumarin phenobarbital | [C@@H]1([C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)C=1C(OC2=CC=CC=C2C1)=O.CCC1(C(=O)NC(=O)NC1=O)C=2C=CC=CC2
reactant | ethyl 5-bromopentanoate | BrCCCCC(=O)OCC | C7H13BrO2
product | 5-[4-(7-β-Galactosylcoumarin-3-carboxamido)butyl]-5-phenylbarbituric Acid | [C@@H]1([C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)C1=CC=C2C=C(C(OC2=C1)=O)C(=O)NCCCCC1(C(NC(NC1=O)=O)=O)C1=CC=CC=C1 | C30H31N3O11
